2165-09-28 09:02:00 Physician Attending Progress Note
Chief Complaint: hypoxemia/respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo women with severe COPD presented to PCP, [**Name10 (NameIs) 1819**] to have hypoxemia
   and b/l cellulitis.  In ED was intubated with pCO2 in 100 range.
   Overnight did not tolerate PSV because of oversedation.
   24 Hour Events:
 ARTERIAL LINE - START [**2165-9-27**] 03:55 PM
 NASAL SWAB - At [**2165-9-27**] 05:00 PM
   viral-to R/O flu
 URINE CULTURE - At [**2165-9-27**] 05:11 PM
   leginella
 BLOOD CULTURED - At [**2165-9-28**] 03:12 AM
   ALine
   Allergies:
   Peanut
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2165-9-27**] 08:04 PM
   Levofloxacin - [**2165-9-27**] 11:26 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2165-9-27**] 04:00 PM
   Fentanyl - [**2165-9-27**] 09:00 PM
   Midazolam (Versed) - [**2165-9-27**] 09:10 PM
   Furosemide (Lasix) - [**2165-9-27**] 11:21 PM
   Pantoprazole (Protonix) - [**2165-9-28**] 12:44 AM
   Heparin Sodium (Prophylaxis) - [**2165-9-28**] 12:45 AM
   Other medications:
   chlorhex
   protonix
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-9-28**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 65 (59 - 85) bpm
   BP: 123/64(86) {79/49(68) - 156/84(337)} mmHg
   RR: 15 (13 - 20) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,356 mL
                                                                    509 mL
   PO:
             TF:
                                                                     90 mL
                                                                    238 mL
   IVF:
                                                                  1,157 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  1,733 mL
                                                                  1,050 mL
   Urine:
                                                                  1,733 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -377 mL
                                                                   -541 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 91%
   ABG: 7.40/57/70/37/7
   Ve: 6.7 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: b/l wheezes : )
   Extremities: Right: 2+, Left: 2+
   Skin:  warm, lower extremity erythema
   Neurologic: Responds to voice, follows commands, moves all 4
   extremeties
   Labs / Radiology
   17.1 g/dL
   147 K/uL
   216 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.4 mEq/L
   32 mg/dL
   101 mEq/L
   143 mEq/L
   53.1 %
   5.5 K/uL
        [image002.jpg]
                            [**2165-9-27**]  01:07 AM
                            [**2165-9-27**]  04:27 AM
                            [**2165-9-27**]  06:00 AM
                            [**2165-9-27**]  04:10 PM
                             [**2165-9-28**]  12:42 AM
                             [**2165-9-28**]  03:02 AM
   WBC
   5.4
   3.6
   5.5
   Hct
   54.5
   54.7
   53.1
   Plt
   137
   141
   147
   Cr
   1.1
   0.9
   0.9
   TCO2
   36
   38
   37
   Glucose
   165
   196
   216
   Other labs: Lactic Acid:1.4 mmol/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.5 mg/dL
   Imaging: echo:  LVEF>55%,
   CXR
   Microbiology: negative urine Lg.
   negative sputum cx.
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:  Continue steroids, can wean down to 60mg q8h.
   Continue levofloxacin for short course.
   wean vent to PSV
 CELLULITIS:  Continue Vanco pending MRSA screen
   Hypervolemia:  Continue diuresis, likely has component of cor pulmonale
 ANXIETY
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2165-9-27**] 05:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-9-26**] 11:11 PM
   Arterial Line - [**2165-9-27**] 03:55 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2165-09-29 10:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo women with severe COPD, admitted with LE cellulitis and
   respiratory failure.
   24 Hour Events:
   Improved, on spontaneous breathing trial.
   Allergies:
   Peanut
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2165-9-27**] 11:26 PM
   Vancomycin - [**2165-9-29**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   medrol
   protonix
   hep s/q
   albuterol
   nicotine patch
   SSI
   glargine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-9-29**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 91 (67 - 96) bpm
   BP: 133/61(86) {120/58(79) - 152/81(106)} mmHg
   RR: 29 (9 - 31) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,609 mL
                                                                    785 mL
   PO:
             TF:
                                                                    899 mL
                                                                    458 mL
   IVF:
                                                                    551 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                    470 mL
   Urine:
                                                                  3,280 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,671 mL
                                                                    315 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 308 (308 - 365) mL
   PS : 5 cmH2O
   RR (Set): 14
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 89%
   ABG: 7.38/67/61/39/10
   Ve: 7 L/min
   PaO2 / FiO2: 153
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   17.4 g/dL
   168 K/uL
   199 mg/dL
   0.8 mg/dL
   39 mEq/L
   4.2 mEq/L
   35 mg/dL
   98 mEq/L
   143 mEq/L
   53.1 %
   8.6 K/uL
        [image002.jpg]
                            [**2165-9-27**]  06:00 AM
                            [**2165-9-27**]  04:10 PM
                             [**2165-9-28**]  12:42 AM
                             [**2165-9-28**]  03:02 AM
                             [**2165-9-28**]  03:43 PM
                             [**2165-9-28**]  04:05 PM
                             [**2165-9-28**]  06:32 PM
                             [**2165-9-29**]  04:15 AM
                             [**2165-9-29**]  05:40 AM
                             [**2165-9-29**]  06:57 AM
   WBC
   3.6
   5.5
   8.6
   Hct
   54.7
   53.1
   53.1
   Plt
   141
   147
   168
   Cr
   0.9
   0.9
   0.9
   0.8
   TCO2
   38
   37
   39
   39
   42
   41
   Glucose
   196
   216
   192
   199
   Other labs: PT / PTT / INR:12.7/27.3/1.1, Lactic Acid:1.4 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION and respiratory failure:
   Much improved today, ABG on SBT with increasing pCO2, will place back
   on increased PS and try weaning trial again later.  Continue levoflox
   for 5 day course.
   DM II can increase standing lantis.
 CELLULITIS: can switch over vanco if MRSA screen is negative.
   continue duresis
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2165-9-29**] 12:17 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-9-27**] 03:55 PM
   20 Gauge - [**2165-9-29**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill